US07572809B2
Similar procedure as described in example 10 was used, starting from 2-morpholin-4-yl-ethanol and (1-chloro-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine to give (5-methyl-1H-pyrazol-3-yl)-[1-(2-morpholin-4-yl-ethoxy)-6-methoxy-isoquinolin-3-yl]-amine. LC-MS m/e 384(MH+).

reactant | 2-morpholin-4-yl-ethanol | N1(CCOCC1)CCO | C6H13NO2
reactant | (1-chloro-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC(=C1)C | C14H13ClN4O
product | (5-methyl-1H-pyrazol-3-yl)-[1-(2-morpholin-4-yl-ethoxy)-6-methoxy-isoquinolin-3-yl]-amine | CC1=CC(=NN1)NC=1N=C(C2=CC=C(C=C2C1)OC)OCCN1CCOCC1 | C20H25N5O3
